US07482336B2
A mixture of [1,2,4]triazolo[1,5-a]pyrazine (10 g) in ethanol (150 mL) and 10% Pd-C (3 g) was stirred under a hydrogen atmosphere overnight and filtered over Celite®. The filtrate was evaporated and the residue purified by column chromatography (silica, 10% methanol/dichloromethane) to yield 5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyrazine. LC-MS 125.1 (M+1).

reactant | [1,2,4]triazolo[1,5-a]pyrazine | 10 g | N=1C=NN2C1C=NC=C2 | C5H4N4
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | Pd-C | 3 g | [Pd] | Pd
product | 5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyrazine | N=1C=NN2C1CNCC2 | C5H8N4
